US07608621B2
N-{[2-Cyclohexyl-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl 2-cyclohexyl-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinecarboxylate. DBU (0.06 mL, 0.398 mmol) was added to a solution of the compound from example 98b) (92 mg, 0.260 mmol) in 1,4-dioxane (1.5 ml) at room temperature. The reaction was heated in the microwave at 130° C. for 20 minutes. The reaction was cooled and H2O and EtOAc were added. The layers were separated and the aqueous phase backextracted with EtOAc several times. The combined organic layers were washed with Brine, dried (MgSO4), filtered and concentrated. The product was purified by column chromatography (SiO2, 10-20% EtOAc/Hexanes) to give the title compound as a colorless oil (36 mg, 45%). 1H NMR (400 MHz, DMSO-d6) d ppm 12.06 (s, 1H) 4.66 (tt, J=11.37, 4.04 Hz, 1H) 4.26 (q, J=7.07 Hz, 2H) 3.15 (sept, J=6.78 Hz, 1H) 1.51-1.89 (m, 7H) 1.29-1.44 (m, 2H) 1.26 (t, J=7.07 Hz, 3H) 1.16 (d, J=6.82 Hz, 6H) 1.08-1.22 (m, 1H).

reactant | Ethyl 2-cyclohexyl-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinecarboxylate | C1(CCCCC1)N1N=C(C(=C(C1=O)C(=O)OCC)O)C(C)C | C16H24N2O4
reactant | DBU | 0.398 mmol, 0.06 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | H2O | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | N-{[2-Cyclohexyl-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 36 mg, 45% | C1(CCCCC1)N1N=C(C(=C(C1=O)C(=O)NCC(=O)O)O)C(C)C | C16H23N3O5
